US07163958B2
39a. 2-(4-(2-Hydroxyethoxy)phenoxy)ethyl(2S)-2-(6-methoxy(2-naphthyl))propanoate
A solution of (2S)-2-(6-methoxy(2-naphthyl))propanoic acid (naproxen, 4.27 g, 18.5 mmol), hydroquinone bis(2-hydroxyethyl) ether (10.6 g, 53.3 mmol), N,N-dimethylaminopyridine (DMAP, 2.71 g, 22.2 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (9.34 g, 48.7 mmol) and NEt3 (13 mL, 93.3 mmol) in DMF (100 mL) was stirred at ambient temperature overnight. The reaction mixture was evaporated to dryness under vacuum and the residue was partitioned between HCl (3N, 100 mL) and CH2Cl2 (200 mL). The organic layer was washed with water, brine, dried over Na2SO4, filtered and concentrated. The product was separated by silica gel column chromatography eluting with EtOAc/hexane (1:1, Rf=0.15) and then recrystalized from ethyl ether and hexane to give the title compound as a white solid (6.01 g, 31% yield). Mp 76–78° C. 1H NMR (CDCl3) δ 7.7–7.64 (m, 3H), 7.42–7.38 (m, 1H), 7.15–7.08 (m, 2H), 6.74–6.72 (m 4H), 4.45–4.36 (m, 2H), 4.1–3.85 (m, 7H), 3.90 (s, 3H), 2.13 (br. t, 1H), 1.58 (d, J=7.2 Hz, 3H). 13C NMR (CDCl3) δ 174.6, 157.5, 153.0, 152.8, 135.4, 133.6, 129.2, 128.8, 127.1, 126.1, 125.9, 118.8, 115.7, 115.3, 105.5, 69.7, 66.6, 63.1, 61.4, 55.2, 45.2, 18.4. MS(API) m/z 428 (M+NH4)+. Anal. calcd. for C24H26O6: C, 70.23; H, 6.38. Found: C, 70.01; H, 6.39.

reactant | (2S)-2-(6-methoxy(2-naphthyl))propanoic acid | 18.5 mmol, 4.27 g | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)O)C | C14H14O3
reactant | hydroquinone bis(2-hydroxyethyl) ether | 53.3 mmol, 10.6 g | OCCOC1=CC=C(OCCO)C=C1 | C10H14O4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 48.7 mmol, 9.34 g | Cl.CN(CCCN=C=NCC)C
reactant | NEt3 | 93.3 mmol, 13 mL | CCN(CC)CC | C6H15N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-(4-(2-Hydroxyethoxy)phenoxy)ethyl(2S)-2-(6-methoxy(2-naphthyl))propanoate | 6.01 g, 31% yield | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)OCCOC1=CC=C(C=C1)OCCO)C | C24H26O6
